US09164384B2
A solution was prepared by combining 15 g of (4-hydroxyphenyl) phenyl sulfide which had been synthesized according to the well-known formulation, 11 g of 1-bromohexane, 9 g of potassium carbonate, and 30 g of DMF. The solution was aged at 80° C. for 16 hours. The aged solution was cooled to room temperature, to which 30 g of water was added to quench the reaction. To the solution, 50 g of toluene was added for extraction. The organic layer was separated and washed with sodium hydroxide aqueous solution and water in sequence. On subsequent concentration in vacuum, 16 g of the target compound, (4-hexyloxyphenyl) phenyl sulfide was obtained as oily matter. Yield 90%.

reactant | (4-hydroxyphenyl) phenyl sulfide | 15 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)O | C12H10OS
reactant | 1-bromohexane | 11 g | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 g | CN(C)C=O | C3H7NO
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 g | O | H2O
product | (4-hexyloxyphenyl) phenyl sulfide | Yield 90% | C1(=CC=CC=C1)SC1=CC=C(C=C1)OCCCCCC | C18H22OS
